US04152356
According to the procedure described in Example 3, a mixture of 9.0 grams of 9,10-dihydroanthracene, 3.5 grams of sodium methoxide and 25 cc of DMF was treated with carbon monoxide under an initial pressure of 800 psig. At the end, residual CO (400 psig) was released, and a sodium borohydride solution (1 gram in 10 cc of water) was added to the mixture. Excess hydride was destroyed by adding a hydrochloric acid solution. The mixture was then extracted with ether. An 83% yield of 9,10-dihydro-9-anthracenemethanol was realized. The separation was carried out by evaporating off the solvent, then extracting the desired product from the residue with methanol. Recrystallization from benzene-pentane gave 6.0 grams of white powder, mp=105° C. which was identified as 9,10-dihydro-9-anthracenemethanol. Five grams of this product was mixed with 1.0 grams of silica-alumina (Davison SMR5-1020, 87% SiO2 -13% Al2O3, BET surface area 350 m2 /gr) and heated under a nitrogen flow to 250° C. After cooling, the solid was dissolved in benzene, and methanol was added to recrystallize 4.5 grams of white plates which was identified to be pure 5H-dibenzo(a,d)cycloheptene, i.e. a compound having the structure of compound I.

reactant | 9,10-dihydroanthracene | 9.0 grams | C1=CC=CC=2CC3=CC=CC=C3CC12 | C14H12
reactant | sodium methoxide | 3.5 grams | C[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
reactant | sodium borohydride | 10 cc, 1 gram | [BH4-].[Na+]
solvent | DMF | 25 cc | CN(C)C=O | C3H7NO
product | 9,10-dihydro-9-anthracenemethanol | 83% yield | C1=CC=CC=2CC3=CC=CC=C3C(C12)CO | C15H14O
